US07402595B2
6-chloro-1-oxo-4-phenyl-2-propylidenamino-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
The present compound was synthesized by a method similar to that in Example 210 and using 2-amino-6-chloro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (210 mg) and propionaldehyde. A colorless powder (120 mg).

reactant | 2-amino-6-chloro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 210 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Cl)=O)N | C17H13ClN2O3
reactant | propionaldehyde | C(CC)=O | C3H6O
product | 6-chloro-1-oxo-4-phenyl-2-propylidenamino-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Cl)=O)N=CCC | C20H17ClN2O3
